US08058269B2
The mixture of rac-6-chloro-3-(3-chloro-benzyl)-3-piperazin-1-yl-1,3-dihydro-indol-2-one (100 mg, 0.266 mmol), benzoyl chloride (37 mg, 0.266 mmol) and DIPEA (34 mg, 0.266 mmol) in acetonitrile (3 mL) was stirred at room temperature for overnight. Then the mixture was concentrated and the residue was purified with preparative HPLC to give 29 mg of rac-3-(4-benzoyl-piperazin-1-yl)-6-chloro-3-(3-chloro-benzyl)-1,3-dihydro-indol-2-one as a light orange solid. MS m/z 480 (M+H)+.

reactant | rac-6-chloro-3-(3-chloro-benzyl)-3-piperazin-1-yl-1,3-dihydro-indol-2-one | 0.266 mmol, 100 mg | ClC1=CC=C2C(C(NC2=C1)=O)(N1CCNCC1)CC1=CC(=CC=C1)Cl | C19H19Cl2N3O
reactant | benzoyl chloride | 0.266 mmol, 37 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | DIPEA | 0.266 mmol, 34 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | rac-3-(4-benzoyl-piperazin-1-yl)-6-chloro-3-(3-chloro-benzyl)-1,3-dihydro-indol-2-one | 29 mg | C(C1=CC=CC=C1)(=O)N1CCN(CC1)C1(C(NC2=CC(=CC=C12)Cl)=O)CC1=CC(=CC=C1)Cl | C26H23Cl2N3O2
